US09085534B2
Preparation 19A: 3-[(2-bromobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 33% yield from 2-bromobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. [M+H] calc'd for C13H11BrN2O2, 307, 309; found 307, 309.

reactant | 2-bromobenzylamine | BrC1=C(CN)C=CC=C1 | C7H8BrN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2-bromobenzyl)amino]pyridine-4-carboxylic acid | 33% yield | BrC1=C(CNC=2C=NC=CC2C(=O)O)C=CC=C1 | C13H11BrN2O2
